US08252798B2
1-(2-Fluoro-ethyl)-piperazine hydrochloride salt
Add 4N HCl in 1,4-dioxane (86.096 mmoles, 21.524 mL) to a stirred solution of 4-(2-fluoro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (8.610 mmoles, 2.000 g) in dry dichloromethane (60 mL) at room temperature under nitrogen. Stir overnight under nitrogen. Concentrate under reduced pressure to afford the title compound (8.679 mmoles, 1.780 g). MS (m/z): 133 (M+1).

reactant | HCl | 4N | Cl | ClH
reactant | 1,4-dioxane | 86.096 mmoles, 21.524 mL | O1CCOCC1 | C4H8O2
reactant | 4-(2-fluoro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 8.610 mmoles, 2.000 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCF | C11H21FN2O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 1-(2-Fluoro-ethyl)-piperazine hydrochloride salt | 8.679 mmoles, 1.780 g | Cl.FCCN1CCNCC1 | InChI=1S/C6H13FN2.ClH/c7-1-4-9-5-2-8-3-6-9;/h8H,1-6H2;1H
